US07429609B2
(3-Fluorophenyl)-(3-fluoropyridin-2-yl)-methanol
Under nitrogen atmosphere, a solution of 9.75 g of diazabicyclo[2.2.0]octane in 150 mL of dehydrated diethyl ether was cooled to −40° C., added with 56 mL of 1.56 M n-butyllithium in hexane, and stirred at −20° C. for 1 hour. The solution was cooled to-60° C., added dropwise with 6.9 mL of 3-fluoropyridine, stirred at −60° C. for 1 hour, and added with 9.2 mL of 3-fluorobenzaldehyde. After stirring for 1 hour, aqueous ammonium chloride and ethyl acetate were successively added, and the mixture was recovered to room temperature. The organic layer was extracted, washed with water, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting crude product was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:4), to give 12.6 g of the title compound as colorless needle crystals.

reactant | n-butyllithium | 1.56 M, 56 mL | C(CCC)[Li]
reactant | 3-fluoropyridine | 6.9 mL | FC=1C=NC=CC1 | C5H4FN
reactant | 3-fluorobenzaldehyde | 9.2 mL | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Fluorophenyl)-(3-fluoropyridin-2-yl)-methanol | 12.6 g | FC=1C=C(C=CC1)C(O)C1=NC=CC=C1F | C12H9F2NO
